US06387900B1
To 0.4 g (3.2 mmol) of 3-cyclopropyl-5-amino-1H-pyrazole in 10 ml of 95% ethanol containing 0.3 g of sodium hydrogencarbonate 0.35 ml (3 mmol) of phenylisocyanate were added dropwise over several minutes. After 30 min water was added, and the solid was filtered, washed with 10% HCl and then with water. The filtrate was concentrated in vacua. The crude was recrystallized from methanol/water to give white peddles of 5-amino-3-cyclopropyl-N-phenyl-1H-pyrazole-l-carboxamide,

reactant | 3-cyclopropyl-5-amino-1H-pyrazole | 3.2 mmol, 0.4 g | C1(CC1)C1=NNC(=C1)N | C6H9N3
reactant | sodium hydrogencarbonate | 3 mmol, 0.35 ml | C(O)([O-])=O.[Na+]
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | water | O | H2O
solvent | ethanol | 10 ml, 0.3 g | C(C)O | C2H6O
product | 5-amino-3-cyclopropyl-N-phenyl-1H-pyrazole-l-carboxamide | NC1=CC(=NN1C(=O)NC1=CC=CC=C1)C1CC1 | C13H14N4O
